US08334308B2
Step 1: (4-bromo-2-methylphenyl)methanol
Borane-dimethyl sulfide complexe (2.5 eq.) was added to a stirred solution of commercially available 4-bromo-2-methylbenzoic acid (1 eq.) in THF (0.3M). The mixture was reflux for 3 h. at without a condensor allowing the SMe2 to escape. The final reaction concentration was 0.5M. The mixture was cooled to 0° C. and quenched with a slow addition of HCl 1N. The resulting mixture was extracted with Et2O. The organic extract was washed with water, brine, dried over MgSO4 filtered and concentrated to afford the desired material as a yellow solid.

reactant | Borane-dimethyl sulfide | 2.5 eq. | CSC.B
reactant | 4-bromo-2-methylbenzoic acid | 1 eq. | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | SMe2 | S(C)C | C2H6S
solvent | THF | 0.3M | C1CCOC1 | C4H8O
product | (4-bromo-2-methylphenyl)methanol | BrC1=CC(=C(C=C1)CO)C | C8H9BrO
